USRE029153
Employing the procedure of Example I but replacing 4-methoxyphenacyl bromide with a substantially equimolecular amount of phenacyl bromide and replacing pyridine with a substantially equimolecular amount of 4-ethylpyridine there is obtained N-(phenacyl)4-ethyl-pyridinium bromide, a white solid melting at 236-238° C., and which is soluble in water.

reactant | 4-methoxyphenacyl bromide | COC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO2
reactant | phenacyl bromide | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
reactant | 4-ethylpyridine | C(C)C1=CC=NC=C1 | C7H9N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(phenacyl)4-ethyl-pyridinium bromide | [Br-].C(C(=O)C1=CC=CC=C1)[N+]1=CC=C(C=C1)CC | InChI=1S/C15H16NO.BrH/c1-2-13-8-10-16(11-9-13)12-15(17)14-6-4-3-5-7-14;/h3-11H,2,12H2,1H3;1H/q+1;/p-1
